US08486962B2
3-Nitro phenol (1 g, 7.19 mmol) was added to a solution of potassium hydroxide (1.6 g, 28.76 mmol) in anhydrous DMSO (6 ml) at room temperature. After 30 min, (2-chloro-ethyl)-dimethyl-amine hydrochloride (1.03 g, 7.19 mmol) was added and the reaction mixture was heated at 80-90° C. for 12 hr. The reaction mixture was cooled to room temperature and diluted with ice water. The product was extracted with toluene and the organic layer was washed with 5% sodium hydroxide solution, then brine and dried. Evaporation under reduced pressure gave dimethyl-[2-(3-nitro-phenoxy)-ethyl]-amine (600 mg, 40%) as oil.

reactant | 3-Nitro phenol | 7.19 mmol, 1 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | potassium hydroxide | 28.76 mmol, 1.6 g | [OH-].[K+]
reactant | (2-chloro-ethyl)-dimethyl-amine hydrochloride | 7.19 mmol, 1.03 g | Cl.ClCCN(C)C
solvent | DMSO | 6 ml | CS(=O)C | C2H6OS
product | dimethyl-[2-(3-nitro-phenoxy)-ethyl]-amine | 600 mg, 40% | CN(CCOC1=CC(=CC=C1)[N+](=O)[O-])C | C10H14N2O3
